US04282212
1-(N-3,4-Methylenedioxybenzoyl-carbamoyl)-2-cyanoaziridine
0.26 g. 2-Cyanoaziridine are dissolved in 5 ml. toluene and introduced, while stirring at 0° C., into a solution of 0.73 g. 3,4-methylenedioxybenzoyl isocyanate in 25 ml. toluene. The reaction mixture is further stirred for 1 hour at 0° C. and the precipitated material (0.65 g.) is filtered off with suction at ambient temperature and briefly boiled with isopropanol, 0.2 g. of the desired 1-(N-3,4-methylenedioxybenzoyl-carbamoyl)-2-cyanoaziridine thereby remaining undissolved (m.p. 145°-153° C., at 172° C. a clear melt is obtained). It is contaminated with a little 3,4-methylenedioxybenzamide.

reactant | 2-Cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | 3,4-methylenedioxybenzoyl isocyanate | C1OC=2C=C(C(=O)N=C=O)C=CC2O1 | C9H5NO4
reactant | 3,4-methylenedioxybenzamide | C1OC=2C=C(C(=O)N)C=CC2O1 | C8H7NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(N-3,4-Methylenedioxybenzoyl-carbamoyl)-2-cyanoaziridine | C1OC=2C=C(C(=O)NC(=O)N3C(C3)C#N)C=CC2O1 | C12H9N3O4
